** sch_path: /mnt/c/Users/Hyun/Documents/GitHub/Bubu_Analog_Bootcamp/analog/bootcamp_opamp/build/schematic/mytb_ac_analysis.sch
**.subckt mytb_ac_analysis
x1 VOUT VIN_P VIN_N VDD GND net1 myopamp
VCM net2 GND DC 0.9V
VDD VDD GND DC 1.8V
VBIAS net1 GND DC 0.6V
C1 VOUT GND 1p m=1
VDIFF VIN_P net2 dc 0 ac 0
.save i(vdiff)
R1 VIN_N net2 1Meg m=1
R2 VIN_P net2 1Meg m=1
ITEST VOUT GND dc 0 ac 1
**** begin user architecture code


.save all
.ac dec 100 0.1 1G
.control
run
plot vdb(VOUT)
.endc



.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/hyun/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/hyun/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/hyun/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/hyun/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  myopamp.sym # of pins=6
** sym_path: /mnt/c/Users/Hyun/Documents/GitHub/Bubu_Analog_Bootcamp/analog/bootcamp_opamp/build/schematic/myopamp.sym
** sch_path: /mnt/c/Users/Hyun/Documents/GitHub/Bubu_Analog_Bootcamp/analog/bootcamp_opamp/build/schematic/myopamp.sch
.subckt myopamp VOUT VIN_P VIN_N VDD VSS VBIAS
*.ipin VIN_N
*.ipin VIN_P
*.ipin VBIAS
*.opin VOUT
*.iopin VDD
*.iopin VSS
XM1 net2 VIN_N net1 VSS sky130_fd_pr__nfet_01v8 L=0.500 W=0.420 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net3 VIN_P net1 VSS sky130_fd_pr__nfet_01v8 L=0.500 W=0.420 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=1.000 W=0.893 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net3 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=1.000 W=0.893 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net1 VBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=1.000 W=0.463 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 VOUT net3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.500 W=52.380 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=3 m=3
XM7 VOUT VBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=1.000 W=48.290 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=3 m=3
XC1 net3 VOUT sky130_fd_pr__cap_mim_m3_1 W=10 L=12.5 MF=1 m=1
.ends

.GLOBAL GND
.end
